US07288658B2
c) 6-Hydroxy-4-o-tolyl-nicotinonitrile
1.726 g (10.0 mmol) 1-carbamoylmethyl-pyridinium chloride and 1.712 g (10.0 mmol) 2-formyl-3-o-tolyl-acrylonitrile in 24.8 ml methanol were treated with 1.05 g (10.4 mmol) triethylamine at 20-30° C. The reaction mixture was stirred for 2 hours and concentrated in vacuo (rotary evaporator at 40° C. and 20 mbar). The residue was taken up in 50 ml dichloromethane, treated with 2.56 g (20.0 mmol) (chloromethylene)dimethylammonium chloride (Vilsmeiers Reagent) and heated at 45° C. for 1 hour. In order to remove all volatile matter, the mixture was concentrated in vacuo (rotary evaporator at 45° C. and 20 mbar). The residue was heated to 180-190° C. for 15 minutes, cooled down to 20-25° C. and distributed in 80.0 ml dichloromethane and 80.0 ml water. The layers were separated. Evaporation of the organic phase in vacuo gave 1.37 g of amorphous product of 6-hydroxy-4-o-tolyl-nicotinonitrile.

reactant | 1-carbamoylmethyl-pyridinium chloride | 10.0 mmol, 1.726 g | [Cl-].C(N)(=O)C[N+]1=CC=CC=C1
reactant | 2-formyl-3-o-tolyl-acrylonitrile | 10.0 mmol, 1.712 g | C(=O)C(C#N)=CC1=C(C=CC=C1)C | C11H9NO
reactant | triethylamine | 10.4 mmol, 1.05 g | C(C)N(CC)CC | C6H15N
reactant | (chloromethylene)dimethylammonium chloride | 20.0 mmol, 2.56 g | [Cl-].ClC=[N+](C)C
solvent | methanol | 24.8 ml | CO | CH4O
product | 6-Hydroxy-4-o-tolyl-nicotinonitrile | 1.37 g | OC1=NC=C(C#N)C(=C1)C1=C(C=CC=C1)C | C13H10N2O
